US06936608B2
2-{7-[4-Fluoro-3-(pyridin-4-yl)phenyl]imidazo[1,2-b][1,2,4]triazin-3-yl}propan-2-ol
4-Fluoro-3-(pyridin-4-yl)benzeneboronic acid was coupled with 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol in 80% yield by a similar procedure to that described in Example 3, step f, to afford the title compound as a yellow solid: mp 233-237° C. (CH2Cl2-EtOAc-MeOH); 1H NMR (400 MHz, DMSO-d6) δ 1.57 (6H, s), 5.78 (1H, s), 7.60 (1H, dd, J 11.0, 8.6 Hz), 7.68-7.70 (2H, m), 8.27 (1H, m), 8.35 (1H, dd, J 7.4, 2.3 Hz), 8.53 (1H, s), 8.73 (2H, m), 9.04 (1H, s); MS (ES+) m/z 350 [M+H]+. Anal. Found: C, 64.87; H, 4.58; N, 19.79%. Required for C19H16FN5O.0.1H2O: C, 64.98; H, 4.65; N, 19.94%.

reactant | 4-Fluoro-3-(pyridin-4-yl)benzeneboronic acid | FC1=C(C=C(C=C1)B(O)O)C1=CC=NC=C1 | C11H9BFNO2
reactant | 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol | BrC1=CN=C2N1N=CC(=N2)C(C)(C)O | C8H9BrN4O
product | 2-{7-[4-Fluoro-3-(pyridin-4-yl)phenyl]imidazo[1,2-b][1,2,4]triazin-3-yl}propan-2-ol | FC1=C(C=C(C=C1)C1=CN=C2N1N=CC(=N2)C(C)(C)O)C2=CC=NC=C2 | C19H16FN5O
